datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1>>C[Si](C)(C)[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([O:49]C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]1)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1 10,11=10,20"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].C[C:10](C)=[N+:11]([O-:12])[O-:62]>>CC[O:33][C:22](=[CH:21][CH:20](C)[C:10](C)(C)[N+:11](=[O:12])[O-:62])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C:11](C)=[CH2:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C+:11](C)[CH2:10][CH:20]([C:21]1=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:21](C)=[CH2:20].C[N:10](C)C>>C[N+:10](C)(C)[CH2:20][N:21](C)C 10=20;20,21=21"
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].[O-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1>>C[N:33](C)[C:22](=[CH:21][CH2:20][O:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCC1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C+:11]2CCCCCCCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[N+](CC)(CC)[BH2-:11][H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[N+](CC)(CC)[BH2:11].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1C[N:12]2CC[N:10]=[C:11]2[S:62]C1.FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>FC1=CC(F)=CC(C2C([CH:20](C3=CC(F)=CC(F)=C3)[N:10]3CC[N+:12]4=[C:11]3[S:62]CCC4)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1 10,11=10,20;12=11,12;20,21=21"
C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[O-][C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[CH:61]2[C:62]([O-])=[O:63])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20](C(F)(F)F)[C:21]3=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]3)=[O:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
[CH-:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([CH:10]1[CH:61]=[CH:62][C:72]4=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]4)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20
"Br[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](Br)[CH:64]=[CH:63]3)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CC[C:20](=[O:21])CC1.CC[O:92][C:61]([CH-:10][C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62]>>CC[O:92][C:61]([CH:10]([C:20]1([O-:21])CCCCC1)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62] 10=20;20,21=21"
